US04753953
7-(3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride
7-(3-t-Butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.27 g) was dissolved in a mixture of methanol (5 ml) and concentrated hydrochloric acid (5 ml) and stirred at room temperature for 30 minutes. After the reacting mixture was concentrated under reduced pressure, the resulting residue was dissolved in ethanol (10 ml) and crystallized with cooling. The resulting precipitate was recrystallized from methanol to give the title compound (0.14 g) as pale yellow powder, mp 272°-274° C.

reactant | 7-(3-t-Butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.27 g | C(C)(C)(C)OC(=O)NC1CN(CC1C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C23H27F2N3O5
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 7-(3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride | 0.14 g | Cl.NC1CN(CC1C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | InChI=1S/C18H19F2N3O3.ClH/c1-8-5-22(7-13(8)21)16-12(19)4-10-15(14(16)20)23(9-2-3-9)6-11(17(10)24)18(25)26;/h4,6,8-9,13H,2-3,5,7,21H2,1H3,(H,25,26);1H
